US06281218B1
5-Hydroxy-1-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}-1,3-dihydro-benzimidazol-2-one (Compound 1)
A mixture of 5-methoxy-1-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}-1,3-dihydrobenzimidazol-2-one (0.6 g; 1.4 mmol) and 48% HBr (30 ml) was refluxed for 1 hour. The reaction was then cooled and water was added (30 ml). The precipitated solid was collected and recrystallized from 95% EtOH to give the title compound as a white solid 0.4 g; m.p. 275° C. (as hydrobromide salt, from 95% ethanol). 1H-NMR (DMSO; 200 MHz): 10.82 (1H, s); 9.6, (1H, b); 9.11(1H, s); 7.47 (1H, m); 7.2-7.4 (2H, ov); 7.16 (1H, d); 7.03 (1H, d); 6.4-6.6 (2H, ov); 4.17 (2H, t); 4.03 (2H, d); 3.82 (2H, d); 3.51 (2H, b); 2.9-3.5 (4H, ov).

reactant | 5-methoxy-1-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}-1,3-dihydrobenzimidazol-2-one | 1.4 mmol, 0.6 g | COC1=CC2=C(N(C(N2)=O)CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C21H23F3N4O2
reactant | HBr | 30 ml | Br | BrH
solvent | water | O | H2O
product | 5-Hydroxy-1-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}-1,3-dihydro-benzimidazol-2-one | 0.4 g | OC1=CC2=C(N(C(N2)=O)CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C20H21F3N4O2
